US04710507
A solution of n-butyl lithium [1.04 cm3 of a 1.6M solution in n-hexane] was added at -70° to a stirred solution of 8-bromo-6-[2,6-dimethyl-pyrid-3-yl]-2-(1H)-quinolone (0.25 g) in THF (20 cm3) under nitrogen. After 2 hours, gaseous formaldehyde [generated by sublimation of paraformaldehyde (0.3 g)] was passed over the solution, and, after stirring for a further 10 minutes, the mixture was allowed to warm to room temperature. Saturated ammonium chloride solution (10 cm3) was then added and the mixture was extracted with chloroform (3×50 cm3). The combined and dried (MgSO4) organic extracts were evaporated and the residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with dichloromethane:methanol, 19:1. Combination and evaporation of the appropriate fractions afforded 8-hydroxymethyl-6-[2,6-dimethylpyrid-3-yl]-2-(1H)-quinolone. 0.1H2O, m.p. 218.5°-221° (0.094 g).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 8-bromo-6-[2,6-dimethyl-pyrid-3-yl]-2-(1H)-quinolone | 0.25 g | BrC=1C=C(C=C2C=CC(NC12)=O)C=1C(=NC(=CC1)C)C | C16H13BrN2O
reactant | formaldehyde | 0.3 g | C=O | CH2O
reactant | ammonium chloride | 10 cm3 | [Cl-].[NH4+]
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 20 cm3 | C1CCOC1 | C4H8O
product | 8-hydroxymethyl-6-[2,6-dimethylpyrid-3-yl]-2-(1H)-quinolone | OCC=1C=C(C=C2C=CC(NC12)=O)C=1C(=NC(=CC1)C)C | C17H16N2O2
